US09381257B2
1a) Preparation of 1,2,4,5-tetra-tert-butylthiobenzene (Compound 1a)
Sodium (9.3 g, 0.18 mol) was added to a degassed solution of 2-methyl-2-propanethiol (20.9 mL, 0.18 mol) in dry DMF (105 mL), under stirring at 0° C. in nitrogen atmosphere. The mixture was allowed to reach room temperature (RT, 20-25° C.) and stirred overnight. 1,2,4,5-Tetrachlorobenzene (8.0 g, 0.037 mol) was then added and the resulting mixture was stirred at RT for 2 h and then gently refluxed for 18 h. After cooling at RT, the reaction mixture was poured over ice (100 g), the precipitate was removed by filtration, washed with water, and dried to give 11.0 g of the title compound as an off-white powder.

reactant | Sodium | 0.18 mol, 9.3 g | [Na] | Na
reactant | 2-methyl-2-propanethiol | 0.18 mol, 20.9 mL | CC(C)(C)S | C4H10S
reactant | 1,2,4,5-Tetrachlorobenzene | 0.037 mol, 8.0 g | ClC1=C(C=C(C(=C1)Cl)Cl)Cl | C6H2Cl4
solvent | DMF | 105 mL | CN(C)C=O | C3H7NO
product | 1,2,4,5-tetra-tert-butylthiobenzene | 11.0 g | C(C)(C)(C)SC1=C(C=C(C(=C1)SC(C)(C)C)SC(C)(C)C)SC(C)(C)C | C22H38S4
